### PR TITLE
[Merged by Bors] - feat(Homology): HasProjectiveDimensionLT with enough injectives

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
For category woth enough projectives, `HasProjectiveDimensionLT X n` only need `Subsingleton (Ext X Y n)`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean [hunk 1]
```diff
@@ -220,11 +221,29 @@ end ShortExact
...
+    induction k generalizing Y with
+    | zero => simpa using hX Y
+    | succ k ih =>
+      rcases EnoughInjectives.presentation Y with ⟨I, inj, g⟩
+      let S := ShortComplex.mk g (cokernel.π g) (cokernel.condition g)
+      have S_exact : S.ShortExact := { exact := ShortComplex.exact_cokernel g }
+      have eq : n + 1 + k + 1 = n + 1 + (k + 1) := by abel
+      have surj : Function.Surjective (S_exact.extClass.postcomp X eq) :=
+        fun x ↦ Ext.covariant_sequence_exact₁ X S_exact x (Ext.eq_zero_of_injective _) rfl
+      exact @surj.subsingleton _ _ _ (ih (Nat.le_add_right _ k) 0)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Abelian/Projective/Dimension.lean]: This is a slightly better proof as this avoids using `@`, and also because the case `n := 0` does not need to be done separately: 
```suggestion
lemma hasProjectiveDimensionLT_of_enoughInjectives [HasExt C] [EnoughInjectives C] (X : C) (n : ℕ)
    (hX : ∀ Y : C, Subsingleton (Ext X Y n)) : HasProjectiveDimensionLT X n := by
  suffices ∀ ⦃d : ℕ⦄ ⦃Y : C⦄ (e : Ext X Y d) (k : ℕ), d = n + k → e = 0 from
    HasProjectiveDimensionLT.mk (fun i hi Y e ↦ by
      obtain ⟨k, rfl⟩ := Nat.exists_eq_add_of_le hi
      exact this e k rfl)
  intro d Y e k hd
  induction k generalizing d Y with
  | zero =>
    obtain rfl : d = n := by simpa using hd
    subsingleton
  | succ k hk =>
    let ⟨p⟩ := EnoughInjectives.presentation Y
    have h : (ShortComplex.mk _ _ (cokernel.condition p.f)).ShortExact :=
      { exact := ShortComplex.exact_cokernel p.f }
    have hd : n + k + 1 = d := by lia
    obtain ⟨x, rfl⟩ := Ext.covariant_sequence_exact₁ X h e
      (by subst hd; apply Ext.eq_zero_of_injective) hd
    simp [hk x rfl]
```
